US08629160B2
2-Bromo-1-(thiazol-2-yl)ethanone (23.4 mg, 0.11 mmol) was added to a solution of ethyl 3-(1-(6-methoxypyridin-3-yl)-2-oxo-2-((R)-quinuclidin-3-yloxy)ethylamino)benzoate (C65) (50 mg, 0.11 mmol) in EtOAc (2 ml). The reaction was stirred at room temperature overnight, and then the solvent was evaporated and the residue was triturated with Et2O, filtered and dried to obtain (3R)-3-(2-(3-(ethoxycarbonyl)phenylamino)-2-(6-methoxypyridin-3-yl)acetoxy)-1-(2-oxo-2-(thiazol-2-yl)ethyl)-1-azoniabicyclo[2.2.2]octane bromide (46.5 mg, 63.3% yield).

reactant | 2-Bromo-1-(thiazol-2-yl)ethanone | 0.11 mmol, 23.4 mg | BrCC(=O)C=1SC=CN1 | C5H4BrNOS
reactant | ethyl 3-(1-(6-methoxypyridin-3-yl)-2-oxo-2-((R)-quinuclidin-3-yloxy)ethylamino)benzoate | 0.11 mmol, 50 mg | COC1=CC=C(C=N1)C(C(O[C@H]1CN2CCC1CC2)=O)NC=2C=C(C(=O)OCC)C=CC2 | C24H29N3O5
solvent | EtOAc | 2 ml | CCOC(=O)C | C4H8O2
product | (3R)-3-(2-(3-(ethoxycarbonyl)phenylamino)-2-(6-methoxypyridin-3-yl)acetoxy)-1-(2-oxo-2-(thiazol-2-yl)ethyl)-1-azoniabicyclo[2.2.2]octane bromide | 46.5 mg, 63.3% yield | [Br-].C(C)OC(=O)C=1C=C(C=CC1)NC(C(=O)O[C@H]1C[N+]2(CCC1CC2)CC(C=2SC=CN2)=O)C=2C=NC(=CC2)OC | InChI=1S/C29H33N4O6S.BrH/c1-3-38-28(35)20-5-4-6-22(15-20)32-26(21-7-8-25(37-2)31-16-21)29(36)39-24-18-33(12-9-19(24)10-13-33)17-23(34)27-30-11-14-40-27;/h4-8,11,14-16,19,24,26,32H,3,9-10,12-13,17-18H2,1-2H3;1H/q+1;/p-1/t19?,24-,26?,33?;/m0./s1
